US07326791B2
N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfinylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide
0.1 g (0.4 mmol) of 3-chloroperoxybenzoic acid is added at −10° C. to a solution of 0.3 g (0.4 mmol) of N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide in 10 mL of dichloromethane and 1 mL of glacial acetic acid and stirred for 30 minutes. Then the mixture is stirred for 4 hours at ambient temperature and washed with 5% sodium carbonate solution. The combined organic phases are dried with sodium sulfate and concentrated. The residue is chromatographed on silica gel, eluting with dichloromethane/methanol (0%-10%). Yield: 0.1 g (59%); Rf value: 0.42 (silica gel; dichloromethane/methanol=9:1); C29H35Cl2N5O5S (636.60); mass spectrum: (M+H)+=636/638/640 (chlorine isotope) and (M−H)−=634/636/638 (chlorine isotope).

reactant | 3-chloroperoxybenzoic acid | 0.4 mmol, 0.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfanylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide | 0.4 mmol, 0.3 g | ClC1=CC2=C(NC(=N2)[C@H](CCSC)NC(C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CNC(=O)OC(C)(C)C)Cl)=O)C=C1 | C29H35Cl2N5O4S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-3-methylsulfinylpropyl]-3-chloro-4-[(2S)-2-(N-tert-butoxycarbonylaminomethyl)pyrrolidin-1-ylcarbonyl]benzamide | ClC1=CC2=C(NC(=N2)[C@H](CCS(=O)C)NC(C2=CC(=C(C=C2)C(=O)N2[C@@H](CCC2)CNC(=O)OC(C)(C)C)Cl)=O)C=C1 | C29H35Cl2N5O5S
